US06627630B1
Production of 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy][1,2,4]triazolo[1, 5-b]pyridazine Dihydrochloride
4-(Diphenylmethyl)-1-piperazinepropanol (466 mg) was dissolved in dried tetrahydrofuran (10 ml), followed by addition of sodium t-butoxide (173 mg). The mixture was refluxed under, heating for 30 minutes. After the mixture was cooled, 6-chloro[1,2,4]triazolo[1,5-b ]pyridazine (268 mg) was added to the mixture. The resulting mixture was refluxed under heating for 3 hours. After the mixture was cooled, ice-water was added thereto, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with a mixture of ethyl acetate and methanol (10:1). Fractions containing the objective compound were collected and dissolved in ethyl acetate (10 ml), followed by addition of 4N HCl in ethyl acetate solution (0.7 ml). The resulting crystals were recrystallized from 95% aqueous ethanol to yield the title compound (413 mg).

reactant | 4-(Diphenylmethyl)-1-piperazinepropanol | 466 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCO)C1=CC=CC=C1 | C20H26N2O
reactant | sodium t-butoxide | 173 mg | CC(C)([O-])C.[Na+]
reactant | 6-chloro[1,2,4]triazolo[1,5-b ]pyridazine | 268 mg | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy][1,2,4]triazolo[1, 5-b]pyridazine Dihydrochloride | 413 mg | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCOC=1C=CC=2N(N1)N=CN2)C2=CC=CC=C2 | InChI=1S/C25H28N6O.2ClH/c1-3-8-21(9-4-1)25(22-10-5-2-6-11-22)30-17-15-29(16-18-30)14-7-19-32-24-13-12-23-26-20-27-31(23)28-24;;/h1-6,8-13,20,25H,7,14-19H2;2*1H
